US07589206B2
To a solution of 7-(3-chloro-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid (34 mg) in dimethylformamide (2 ml) was added 4-ethylmorpholine (57 μl), morpholine (19 μl), 1-hydroxybenzotriazole hydrate (24 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (26 mg) and the solution stirred at room temperature overnight. The dimethylformamide was evaporated and the residue triturated with 5% sodium bicarbonate to give an off white solid. The solid was filtered, washed thoroughly with water, and dried over sodium hydroxide at 50° C. to afford 1-[7-(3-chloro-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-morpholin-4-yl-methanone (22 mg).

reactant | 7-(3-chloro-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid | 34 mg | ClC=1C=C(C=CC1)NC1=NC=C(C2=C1NC=C2C)C(=O)O | C15H12ClN3O2
reactant | 4-ethylmorpholine | 57 μl | C(C)N1CCOCC1 | C6H13NO
reactant | morpholine | 19 μl | N1CCOCC1 | C4H9NO
reactant | 1-hydroxybenzotriazole hydrate | 24 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 26 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-[7-(3-chloro-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-morpholin-4-yl-methanone | 22 mg | ClC=1C=C(C=CC1)NC=1N=CC(=C2C1NC=C2C)C(=O)N2CCOCC2 | C19H19ClN4O2
